US04895868
Benzyl 4-(4,4-dimethyl-6-thiochromanoyloxy)benzoate
A solution of 786 mg (3.54 mmol) of 4,4-dimethyl-6-carboxythiochroman, 804 mg (3.53 mmol) of benzyl 4-hydroxybenzoate, 800 mg (3.88 mmol) of 1, 3-dicyclohexylcarbodiimide and 60 mg (0.49 mmol) of 4-dimethylaminopyridine in 50 ml of methylene chloride was stirred at room temperature for 2 hours. The reaction mixture was then filtered and the residue washed with 20 ml of methylene chloride. The filtrate was concentrated in-vacuo and the resultant crude product was purified by flash chromatography (silica, 20% ethyl acetate in hexanes) followed by recrystallization from a mixture of hexanes and ethyl acetate to give the title compound as a white, crystalline solid. PMR (CDCl3): δ1.39 (6H, s), 1.98 (2H, m), 3.08 (2H, m), 5.37 (2H, s), 7.20 (1H, d, J~8.3 Hz), 7.28 (2H, d, J~8.0 Hz), 7.34-7.48 (5H, m), 7.82 (1H, dd, J~8.3, 2.0 Hz), 8.14 (2H, d, J~8.0 Hz),

reactant | 4,4-dimethyl-6-carboxythiochroman | 3.54 mmol, 786 mg | CC1(CCSC2=CC=C(C=C12)C(=O)O)C | C12H14O2S
reactant | benzyl 4-hydroxybenzoate | 3.53 mmol, 804 mg | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | 1, 3-dicyclohexylcarbodiimide | 3.88 mmol, 800 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.49 mmol, 60 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | Benzyl 4-(4,4-dimethyl-6-thiochromanoyloxy)benzoate | CC1(CCSC2=CC=C(C=C12)C(=O)OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1)C | C26H24O4S
